Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anemia, dizziness
 
Major Surgical or Invasive Procedure:
___ EGD
 
History of Present Illness:
Ms. ___ is a ___ female with history of
uterine fibroids, hypertension (not currently on BP meds) and
peptic ulcer disease and prior H. pylori s/p triple therapy in
___ who presents with progressive dyspnea on exertion and
persistent dizziness in the setting of recent melena and
outpatient labs notable for acute on chronic anemia.  

She had ___ episodes of dark tarry stool on the ___ along
with an episode of syncope on ___ with brief LOC but 
no
head strike. Since then, she has had continued DOE, presyncope
and palpitations but no further episodes of melena or any BM's
altogether since ___. She initially presented to
primary care clinic on ___ with c/o melena and syncope and was
sent for outpatient labs including CBC, iron studies, B12, H
pylori serology and FIT testing. These were notable for anemia
with Hgb 7.6/23.6 (previous baseline of 13.3/39.5 in ___ but no
CBC's between ___ and now), with normal MCV at 90 and
essentially normal iron studies and B12 level. Her H. pylori
serology was positive, but patient states she completed triple
therapy in ___ without repeat breath testing / stool testing
since. She was called regarding these labs and started on nexium
20 bid, iron pills and vit B12 supplementation with plan to
undergo EGD and colonoscopy in the outpatient setting (scheduled
for early ___. 

She returned to clinic 2 days later however with ongoing
dizziness / presyncope and dyspnea on mild exertion. Repeat CBC
was stable at 7.4 / 21.3 but given ongoing symptoms of anemia
with outpatient scopes scheduled for ___ but unable to
perform earlier, she was sent in to the ED for more acute care.
She denies any further episodes of melena or any BM's at all
since ___. 

She has h/o PUD diagnosed in ___ in the setting of NSAID use 
and
positive H pylori testing. She underwent EGD at ___ at the
time and was found to have 3 gastric ulcers but due to
significant edema around the pylorus they could not pass the
scope into the duodenum for full study. She completed triple
therapy for H pylori at the time with initial improvement in
symptoms but more recently over the past ___ years, she has had
progressive recurrence of her reflux symptoms. She is not really
taking any NSAIDs now, she rarely takes Tylenol, but she has had
some intermittent epigastric pain, which she has been taking a
PPI.

 
Past Medical History:
Uterine fibroids 
Hypertension, essential 
S/P bilateral breast implants 
Hx of Peptic ulcer 
 
Social History:
___
Family History:
Reviewed and found to be relevant for:
There is an uncle with colon cancer in his late ___. Her father
has had an ulcer. No history of polyps.
Family history of early CAD 
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: Temp: 98.3 PO BP: 163/95 HR: 86 RR: 18 pOx: 99% on RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
.
.
DISCHARGE EXAM:
===============
VS:
___ 0826 Temp: 98.0 PO BP: 159/92 HR: 73 RR: 16 O2 sat: 98% 
O2 delivery: RA 
___ 0856 BP: 161/99 Lying HR: 67 
___ 0857 BP: 177/96 Sitting HR: 72 
___ 0858 BP: 181/99 Standing HR: 96 
___ 1015 HR: ___ w/ ambulation 
___ 1102 HR: 100-125 while doing stairs  

Gen: NAD, appears well
HEENT: pale conjunctiva, MMM, normal hearing and vocal quality
Neck: no JVD
Cards: RR, normal s1 and s2, ___ systolic murmur heard best over 
LUSB without radiation to carotids
Chest: CTAB, nl WOB
Abd: S, NT, ND, BS+
MSK: grossly normal strength in arms and legs
Neuro: AAOx3, clear speech, EOMI, no nystagmus, PERRL, no tremor
Psych: calm, cooperative
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:15PM BLOOD WBC-9.0 RBC-2.07* Hgb-6.4* Hct-19.2* 
MCV-93 MCH-30.9 MCHC-33.3 RDW-14.3 RDWSD-45.4 Plt ___
___ 07:15PM BLOOD Neuts-54.5 ___ Monos-4.6* Eos-2.2 
Baso-0.4 Im ___ AbsNeut-4.89 AbsLymp-3.41 AbsMono-0.41 
AbsEos-0.20 AbsBaso-0.04
___ 07:15PM BLOOD ___ PTT-27.0 ___
___ 07:15PM BLOOD Glucose-84 UreaN-10 Creat-0.8 Na-141 
K-4.0 Cl-102 HCO3-28 AnGap-11
___ 03:20AM BLOOD ALT-7 AST-15 AlkPhos-66 TotBili-0.5
___ 07:15PM BLOOD Calcium-9.2 Phos-3.5 Mg-2.2
.
.
DISCHARGE LABS:
================
___ 07:40AM BLOOD WBC-7.9 RBC-2.58* Hgb-7.9* Hct-23.6* 
MCV-92 MCH-30.6 MCHC-33.5 RDW-14.9 RDWSD-46.2 Plt ___
___ 07:40AM BLOOD Glucose-93 UreaN-6 Creat-0.9 Na-142 K-3.9 
Cl-105 HCO3-29 AnGap-8*
___ 07:40AM BLOOD Calcium-8.7 Phos-4.1 Mg-2.2
.
.
MICRO:
================
none
.
.
IMAGING:
================
none
.
.
PROCEDURES:
================
___ EGD:
Findings: 
Esophagus:  

 Mucosa: Normal mucosa was noted.  

Stomach:  

 Mucosa: Erythema and friability of the mucosa with stigmata of 
recent bleeding were noted in the antrum. These findings are 
compatible with gastritis. Cold forceps biopsies were performed 
for histology at the random stomach.  

Duodenum:  

 Excavated Lesions A single non-bleeding 12 mm clean-based ulcer 
with surrounding heaped up mucosa was found in the anterior 
duodenal bulb. There was an area of narrowing in the duodenal 
bulb that was able to be traversed by the scope with gentle 
pressure.  

Impression: Normal mucosa in the esophagus
Erythema and friability in the antrum compatible with gastritis 
(biopsy)
Ulcer in the anterior duodenal bulb
Otherwise normal EGD to third part of the duodenum 

 
Brief Hospital Course:
# Acute blood loss anemia
# Syncope
# UGIB
# Peptic ulcer disease (duodenal ulcer)
# Gastritis
- Received 1 unit pRBCs for symptomatic anemia.
- EGD revealed clean base ulcer.
- Bleeding stopped and Hgb stable for > 24 hours prior to 
discharge
- No recurrent syncope or pre-syncope while inpatient
- Orthostatic hypotension improving and mild/minimal by time of 
discharge
- Discharged on BID PPI x6 weeks, then continue PPI daily after 
that
- Will need repeat EGD in ___ weeks
- Biopsies from EGD are pending
.
.
# Essential HTN
*Of note, patient has not been taking prescribed chlorthalidone, 
says her BP have been wnl without it. While inpatient, her BPs 
were generally elevated, so would advise ongoing discussion with 
patient re: using this medication at her upcoming PCP 
___. Given her current mild orthostatic hypotension in 
setting of recent major GI bleed, did not advise her to resume 
this medication at this time.

BP trend during hospitalization
___ 0245 BP: 163/95 
___ 0623 BP: 147/74 
___ 0806 BP: 147/83 
___ 1150 BP: 160/80 
___ 1602 BP: 129/77 L Sitting 
___ BP: 157/85 R Sitting 
___ 2256 BP: 136/69 
___ 0826 BP: 159/92 
.
.
.
.
Time in care:
[x] Greater than 30 minutes in patient care, patient counseling, 
care coordination and other discharge-related activities on the 
day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NexIUM 24HR (esomeprazole magnesium) 20 mg oral BID 
2. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
2.  Chlorthalidone 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute blood loss anemia
# Syncope
# UGIB
# Peptic ulcer disease (duodenal ulcer)
# Gastritis
# Essential HTN
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mrs. ___,

___ were admitted to the hospital with symptomatic anemia 
(shortness of breath and lightheadedness) from an upper GI 
bleed. ___ underwent and endoscopy that revealed an ulcer in 
your stomach that was the likely source of bleeding.  The 
bleeding has stopped and your blood counts have been stable 
since ___ received a blood transfusion.  Please take the 
prescribed medication (pantoprazole) twice daily, ___ minutes 
prior to meals, for 6 weeks. ___ will need to have a repeat 
endoscopy in ___ weeks.  Please follow up with Dr. ___ in the 
___ GI clinic at your appointment on ___, at 11:30 AM.  
Please call your PCP to arrange ___ follow-up appointment in the 
next ___ weeks to ensure your blood counts are improving back to 
normal.

It was a pleasure caring for ___ while ___ were in the hospital, 
and we wish ___ a full and speedy recovery.

Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___